US07238716B2
To a mixture of methyl 5-(5-methyl-2-phenyl-4-oxazolyl)methoxy-3-pyridinecarboxylate (10.70 g) and tetrahydrofuran (100 mL) was added lithium aluminum hydride (1.02 g) under ice-cooling, and the mixture was stirred at room temperature for 10 min. To the mixture was added sodium sulfate 10 hydrate (8.38 g), and the mixture was further stirred at room temperature for 30 min. The insoluble materials were removed by filtration, and the filtrate was concentrated. The obtained residue was subjected to silica gel column chromatography to give crystals (8.93 g, 91%) of [5-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridyl]methanol from a fraction eluted with ethyl acetate-hexane (1:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 111-112° C.

reactant | methyl 5-(5-methyl-2-phenyl-4-oxazolyl)methoxy-3-pyridinecarboxylate | 10.70 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=NC1)C(=O)OC | C18H16N2O4
reactant | lithium aluminum hydride | 1.02 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate 10 hydrate | 8.38 g | O.O.O.O.O.O.O.O.O.O.[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | [5-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridyl]methanol | 8.93 g, 91% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=NC1)CO | C17H16N2O3
